US09337358B2
3-Tetradecylthiophene (5.6 g, 20 mmol) was dissolved in 30 mL of dry DMF. NBS (3.56 g, 20 mmol) was dissolved in 20 mL of DMF. At room temperature, the NBS solution was add to the 3-tetradecylthiophene solution dropwise. The reaction mixture was stirred in dark overnight. The reaction mixture was then poured onto ice, and then extracted with tert-butyl methyl ether (50 mL×3). The organic layer was collected and washed with half-brine (5×100 mL). After the organic layer was dried by MgSO4, the solvent was removed by rotary evaporation. The organic solution thus formed was dried by vacuum pump to give 2-bromo-3-tetradecylthiophene as a colorless oil. The product was used as is in the next step without further purification.

reactant | 3-Tetradecylthiophene | 20 mmol, 5.6 g | C(CCCCCCCCCCCCC)C1=CSC=C1 | C18H32S
reactant | NBS | 20 mmol, 3.56 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-bromo-3-tetradecylthiophene | BrC=1SC=CC1CCCCCCCCCCCCCC | C18H31BrS
